US08293919B2
Example: 1-(3,4-dichlorobenzyl)-3-(4-(tosylmethyl)thiazol-2-yl)urea
4-(Toluene-4-sulfonylmethyl)-thiazol-2-ylamine (0.5 mmol) was dissolved in THF (3 ml) and 3,4-dichlorobenzylisocyanate (1.2 eq., 0.6 mmol) was added. The reaction was heated by microwave for 30 min. at 150° C. Solvent was removed in vacuo. The crude product was purified by column chromatography eluting with a gradient of 0-20% EtOAc (with 10% MeOH) in hexanes to give the title compound as a white solid in 66% yield.

reactant | 4-(Toluene-4-sulfonylmethyl)-thiazol-2-ylamine | 0.5 mmol | C1(=CC=C(C=C1)S(=O)(=O)CC=1N=C(SC1)N)C | C11H12N2O2S2
reactant | 3,4-dichlorobenzylisocyanate | 0.6 mmol, 1.2 eq. | ClC=1C=C(CN=C=O)C=CC1Cl | C8H5Cl2NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(3,4-dichlorobenzyl)-3-(4-(tosylmethyl)thiazol-2-yl)urea | 66% yield | ClC=1C=C(CNC(=O)NC=2SC=C(N2)CS(=O)(=O)C2=CC=C(C)C=C2)C=CC1Cl | C19H17Cl2N3O3S2
